US05308840
Synthesis of 1-methoxymethoxy-4-methyl-2-nitrobenzene (1)
To a suspension of sodium hydride (60% in oil, 4.78 g, 0.12 -methyl-2-nitrophenol (known compound) (15.6 g, 0.102 mol) in DMF (50 ml) under nitrogen atmosphere under ice-cooling over a period of 30 minutes. The mixture was stirred at 0° C. for 30 minutes, and thereto was added dropwise chloromethyl methyl ether (9.3 ml, 0.122 mol). The reacion mixture was stirred at 0° C. for 1 hour. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated. The concentrate was purified by column chromatography to give the ether compound (1). Yield 20.1 g (100%).

reactant | sodium hydride | [H-].[Na+]
reactant | methyl-2-nitrophenol | 0.102 mol, 15.6 g | CC=1C(=C(C=CC1)O)[N+](=O)[O-] | C7H7NO3
reactant | chloromethyl methyl ether | 0.122 mol, 9.3 ml | COCCl | C2H5ClO
reactant | water | O | H2O
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-methoxymethoxy-4-methyl-2-nitrobenzene | COCOC1=C(C=C(C=C1)C)[N+](=O)[O-] | C9H11NO4
